US06087380
a) 4-Nitro-benzoic acid-N-phenyl-N-(2-methoxycarbonylethyl)amide
16.7 g (0.1 mol) of 4-nitrobenzoic acid were refluxed in 50 ml of thionyl chloride and 3 drops of dimethylformamide for 1 hour. After the solvent had been distilled off in vacuo the crude product was dissolved in 150 ml of tetrahydrofuran and added dropwise to a solution of 18 g (0.1 mol) of N-(2-methoxycarbonylethyl)aniline in 250 ml of tetrahydrofuran and 42 ml 0.3 mol) of triethylamine. After being stirred for one hour at ambient temperature the reaction mixture was diluted with 250 ml of ethyl acetate and washed 2× with 200 ml of 14% saline solution. After the solvent had been distilled off and the residue chromatographed (silica gel; methylene chloride) a yellow oil was obtained which slowly solidified. Yield: 32.6 g (100% of theory), Rf value: 0.37 (silica gel; methylene chloride/methanol=50:1)

reactant | 4-nitrobenzoic acid | 0.1 mol, 16.7 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | N-(2-methoxycarbonylethyl)aniline | 0.1 mol, 18 g | COC(=O)CCNC1=CC=CC=C1 | C10H13NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 4-Nitro-benzoic acid-N-phenyl-N-(2-methoxycarbonylethyl)amide | C1(=CC=CC=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)CCC(=O)OC | C17H16N2O5
